Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hyperglycemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old man newly diagnosed with DM 2 days 
prior to admission who presented to the ED for hyperglycemia. He 
presented to his PCP with symptoms of polydipsia and polyuria on 
___ the PCP drew some lab work and the blood glucose was over 
assay. He was started on metformin 500 mg BID that day. Then the 
next day (on ___ the glucose level came back at >700 and the 
patient was advised to present to the ED. 
 He states for the past few days he has been excessively thirsty 
and urinating every 15 minutes. Appetite has not been different 
from usual, and he denies weight loss (or weight gain). He 
initially endorsed some bilateral upper quadrant abdominal pain 
that has been ongoing during this same time period and radiates 
to the back. Denies nausea / vomiting / diarrhea. Currently does 
not complain of abdominal pain. 

ROS: Denies headaches, vision changes, fevers, chest pain, 
shortness of breath, n/v/d/c, dysuria, myalgias, arthralgias. 

In the ED, initial vitals were: 98.6 111 131/93 18 100% RA 499  
 
 Labs notable for:  
 Glu 499  
 Urine with 40 Ketones  
 Gap of 25  
 VBG 7.41/38/60  
 Imaging notable for:  
 None obtained  
 Patient was given:  
 ___ 14:05 IVF 1000 mL NS 1000 mL ___  
 ___ 14:05 SC Insulin Lispro 5 UNIT ___  
 ___ 16:00 SC Insulin Lispro 10 UNIT ___  
 ___ 16:00 IVF 1000 mL NS 1000 mL ___  
 ___ 19:36 SC Insulin 8 UNIT ___  
 ___ 19:36 SC Insulin 9 Units ___  
 ___ was consulted and recommended:  
 Start 24U glargine with 8U Humalog with meals, in addition to 
Humalog sliding scale.  
 Vitals prior to transfer: 98.6 82 127/90 16 97% RA  

ROS otherwise negative in remaining systems.

 
Past Medical History:
New diagnosis of DM-2 
Sciatica
 
Social History:
___
Family History:
Noncontributory for definitive history DM or CAD  
However, he's wondering if his mother has DM  

 
Physical Exam:
==========================
ADMISSION PHYSICAL EXAM:  
Vital Signs: 98.4 145/74 96 18 99RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: obese, soft, NTND, NABS  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities  
Skin: acanthosis nigricans on neck  

==========================
DISCHARGE EXAM:
VITALS: 98.5, HR 95, BP 140/87, RR 20, SpO2 99% RA 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: Supple, + acanthosis nigricans 
RESP: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
ABD: +BS, soft, nondistended, nontender to palpation.  
GU: no foley  
EXT: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: CNs2-12 intact, motor function grossly normal 
==========================

 
Pertinent Results:
===============
ADMISSION LABS:

___ 01:12PM URINE  MUCOUS-RARE
___ 01:12PM URINE  RBC-5* WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 01:12PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-1000 KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 01:12PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:12PM URINE  GR HOLD-HOLD
___ 01:12PM URINE  UHOLD-HOLD
___ 01:12PM URINE  HOURS-RANDOM
___ 01:12PM URINE  HOURS-RANDOM
___ 01:20PM   PLT COUNT-255
___ 01:20PM   NEUTS-53.0 ___ MONOS-7.3 EOS-1.7 
BASOS-0.4 IM ___ AbsNeut-4.33 AbsLymp-3.06 AbsMono-0.60 
AbsEos-0.14 AbsBaso-0.03
___ 01:20PM   WBC-8.2 RBC-5.02 HGB-14.5 HCT-42.4 MCV-85 
MCH-28.9 MCHC-34.2 RDW-12.5 RDWSD-38.3
___ 01:20PM   OSMOLAL-303
___ 01:20PM   CALCIUM-9.8 PHOSPHATE-3.8 MAGNESIUM-1.9
___ 01:20PM   LIPASE-23
___ 01:20PM   GLUCOSE-488* UREA N-20 CREAT-1.1 SODIUM-132* 
POTASSIUM-4.2 CHLORIDE-91* TOTAL CO2-22 ANION GAP-23*
___ 01:32PM   %HbA1c-10.8* eAG-263*
___ 01:33PM   O2 SAT-88
___ 01:33PM   ___ PO2-60* PCO2-38 PH-7.41 TOTAL CO2-25 
BASE XS-0

===============
DISCHARGE LABS:

___ 07:35AM BLOOD WBC-6.9 RBC-4.95 Hgb-14.2 Hct-42.0 MCV-85 
MCH-28.7 MCHC-33.8 RDW-12.7 RDWSD-38.8 Plt ___
___ 07:35AM BLOOD Glucose-342* UreaN-17 Creat-1.1 Na-135 
K-3.9 Cl-96 HCO3-23 AnGap-20
___ 07:35AM BLOOD Calcium-9.0 Phos-3.1 Mg-1.9

===============
MICROBIOLOGY: None

IMAGING: None

 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with a new diagnosis of DM who 
presented for hyperglycemia with BG > 700. Though he had a mild 
anion gap on presentation and ketonuria, he did not meet 
criteria for DKA as his blood gas showed no acidemia. He was 
seen by the ___, who recommended initiation 
of Lantus 24 units qhs, uptitration of metformin to 1000 mg bid, 
and addition of glipizide XL 10 mg bid. A1c was 10.8%. AG 
normalized after insulin administration. He will follow-up with 
___ in ___ days.

TRANSITIONAL ISSUES:
======================
- Started Lantus 24 units QHS; metformin uptitrated to 1000 mg 
bid and glipizide XL 10 mg bid added.
- Patient will follow-up with ___ in ___ days.
- Patient discharged with prescription for insulin pens. Pen 
teaching will be performed by the pharmacist. General diabetes 
education was provided.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1.  GlipiZIDE XL 10 mg PO BID  
2.  Glargine 24 Units Bedtime 
3.  MetFORMIN (Glucophage) 1000 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
===================
Type 2 diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for your during your hospitalization at 
___. You were sent here by your 
doctor for high blood sugars due to diabetes. You were seen by 
the ___ diabetes specialist, who recommended that you 
increase your metformin to 1000 mg twice daily and start insulin 
(Lantus) 24 units at bedtime. He also recommended adding an 
second oral medication called glipizide. You should check your 
blood sugar at minimum twice per day (before breakfast and 
before bed), but ideally four times per day (before meals and 
before bed).  

Please call the ___ to schedule an 
appointment in the next ___ days. 

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___